US08071585B2
A mixture of (S)-3-(3-(tert-butyldimethylsilyloxy)azetidin-1-yl)-2-(1-(2,6-dichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)propanamide mesylate (16.5 g), THF (50.00 mL), water (20.0 mL) and methanesulfonic acid (2.62 g) was stirred for 19 hours at ambient temperature. tert-Butyl methyl ether (40.0 mL) was added followed by the dropwise addition of a solution of potassium carbonate (3.77 g) in water (20.0 mL) over 20 mins with stirring. The aqueous phase was removed and the organic phase was washed with water (20.0 mL) then evaporated under reduced pressure at 50° C. THF (80 mL) was added to the residue and then removed by evaporation under reduced pressure. This process was repeated. THF (20.0 mL) was added to the residue followed by tert-butyl methyl ether (60.0 ml). The mixture was filtered then stirred whilst cyclohexane (50.0 mL) was added dropwise. The solid was collected by filtration and washed with a mixture tert-butyl methyl ether (50.0 mL) and cyclohexane (50.0 mL) and dried to give (2S)-2-[1-(2,6-dichlorophenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-3-(3-hydroxyazetidin-1-yl)-N-(5-methylpyrazin-2-yl)propanamide in an overall yield for steps a) and b) of 69%.

reactant | (S)-3-(3-(tert-butyldimethylsilyloxy)azetidin-1-yl)-2-(1-(2,6-dichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yloxy)-N-(5-methylpyrazin-2-yl)propanamide mesylate | 16.5 g | S(C)(=O)(=O)O.[Si](C)(C)(C(C)(C)C)OC1CN(C1)C[C@@H](C(=O)NC1=NC=C(N=C1)C)OC1=C2C(=NC=N1)N(N=C2)C2=C(C=CC=C2Cl)Cl
reactant | THF | 50.00 mL | C1CCOC1 | C4H8O
reactant | methanesulfonic acid | 2.62 g | CS(=O)(=O)O | CH4O3S
reactant | potassium carbonate | 3.77 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | 20.0 mL | O | H2O
solvent | water | 20.0 mL | O | H2O
solvent | tert-Butyl methyl ether | 40.0 mL | COC(C)(C)C | C5H12O
product | (2S)-2-[1-(2,6-dichlorophenyl)pyrazolo[4,5-e]pyrimidin-4-yl]oxy-3-(3-hydroxyazetidin-1-yl)-N-(5-methylpyrazin-2-yl)propanamide | ClC1=C(C(=CC=C1)Cl)N1N=CC=2C(=NC=NC21)O[C@H](C(=O)NC2=NC=C(N=C2)C)CN2CC(C2)O | C22H20Cl2N8O3
